US06060459
Preparation of Benzoylguanosine
To a 100 mL flask was added guanosine (2.0 g, 7.06 mmol) and N,N-dimethyl-4-aminopyridine (0.017 g, 0.14 mmol). N,N-dimethylformamide (30 mL) was added via cannula with stirring, the flask was purged with argon gas and pyridine (16 mL) was added via cannula. The slurry was allowed to cool 10 min. in an ice/NaCl bath and benzoyl chloride (1.2 mL, 8.5 mmol) was added dropwise. The mixture was allowed to stir while it slowly warmed to 25° C. After 72 h, the mixture was poured into 300 mL of 0.1 M sodium bicarbonate solution (warmed to 60° C.) giving a white solid which was isolated by suction filtration (using a medium glass frit), washed with 3×100 mL cold water, and air dried.

reactant | guanosine | 7.06 mmol, 2.0 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C10H13N5O5
reactant | benzoyl chloride | 8.5 mmol, 1.2 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium bicarbonate | 0.1 M, 300 mL | C([O-])(O)=O.[Na+]
catalyst | N,N-dimethyl-4-aminopyridine | 0.14 mmol, 0.017 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | Benzoylguanosine | C(C1=CC=CC=C1)(=O)[C@@]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C17H17N5O6
